US05726305
b) 4-Chloro-2-nitro-5-(2,2,2-trifluoroethyloxy)toluene
40.4 g (360 mmol) of potassium tert-butylate were added in portions to 60 ml of trifluoroethanol, while stirring and cooling, and the mixture was heated to 80°-90° C. After cooling, 14.4 g (70 mmol) of 4,5-dichloro-2-nitrotoluene were added and the mixture was stirred at 105° C. for 1 hour. It was concentrated in vacuo and the residue was treated with 300 ml of water to give, after filtration with suction, 12 g of crude product, which were purified over silica gel with n-heptane/ethyl acetate, 10 g of product, melting point 76°-79° C.

reactant | potassium tert-butylate | 360 mmol, 40.4 g | CC(C)(C)[O-].[K+]
reactant | 4,5-dichloro-2-nitrotoluene | 70 mmol, 14.4 g | ClC1=CC(=C(C=C1Cl)C)[N+](=O)[O-] | C7H5Cl2NO2
reactant | trifluoroethanol | 60 ml | C(C(F)(F)F)O | C2H3F3O
product | 4-Chloro-2-nitro-5-(2,2,2-trifluoroethyloxy)toluene | ClC1=CC(=C(C=C1OCC(F)(F)F)C)[N+](=O)[O-] | C9H7ClF3NO3
